US07737149B2
N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(4-methyl-1,4-diazepan-1-yl)thiophene-2-carboxamide
Ethyl 5-(4-methyl-1,4-diazepan-1-yl)thiophene-2-carboxylate (0.201 g, 0.75 mmol) and 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine (0.185 g, 0.75 mmol) in toluene (10 mL) were stirred at 20° C. and a 2M solution of trimethylaluminium in toluene (0.938 mL, 1.88 mmol) was added drop-wise. The reaction stirred under nitrogen at 60° C. for 18 h. The reaction mixture was cooled and quenched by pouring into methanol (50 ml), acidified with few drops of 2N hydrochloric acid. The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and fractions were evaporated to dryness to afford crude product.

reactant | Ethyl 5-(4-methyl-1,4-diazepan-1-yl)thiophene-2-carboxylate | 0.75 mmol, 0.201 g | CN1CCN(CCC1)C1=CC=C(S1)C(=O)OCC | C13H20N2O2S
reactant | 5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-amine | 0.75 mmol, 0.185 g | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)N | C13H17N3O2
reactant | trimethylaluminium | C[Al](C)C
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 1.88 mmol, 0.938 mL | C1(=CC=CC=C1)C | C7H8
product | N-[5-[2-(3,5-dimethoxyphenyl)ethyl]-2H-pyrazol-3-yl]-5-(4-methyl-1,4-diazepan-1-yl)thiophene-2-carboxamide | COC=1C=C(C=C(C1)OC)CCC=1C=C(NN1)NC(=O)C=1SC(=CC1)N1CCN(CCC1)C | C24H31N5O3S
